US08703742B2
4-Chloro-7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol
To a solution of 7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol (42 g, 0.18 mol) in DMF (200 mL) at 80° C. was added a solution of NCS (11.8 g, 0.18 mol) in DMF (50 mL) in 30 min. The reaction was quenched with an aqueous solution of LiCl solution (500 mL) and the resulting mixture was extracted by EtOAc (3×250 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel to give the compound as white solid. (39.7 g, contaminated with 18% C6-C1 regioisomer). The mixture was then re-crystallized from Ether/PE (1/5) to give the pure compound (28 g, yield 46.3%). 1H NMR (400 MHz, DMSO-d6) δ 9.32 (s, 1H), 7.50-7.48 (d, 1H), 6.98-6.96 (d, 1H), 5.77-5.74 (d, 1H), 5.35-5.31 (d, 1H), 4.73-4.67 (m, 1H), 4.12-4.07 (m, 2H), 1.34-1.28 (t, 3H).

reactant | 7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol | 0.18 mol, 42 g | C(C)OC1=CC=CC2=C1B(OC2C[N+](=O)[O-])O | C10H12BNO5
reactant | NCS | 0.18 mol, 11.8 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol | ClC1=CC=C(C=2B(OC(C21)C[N+](=O)[O-])O)OCC | C10H11BClNO5
